US05212159
S-(α,β-Dicarboxyethyl)glutathione
In 150 ml of water are dissolved 9.2 g of glutathione and 5.0 g of maleic acid and the solution is allowed to stand at room temperature for 12 hours. One or 2 drops of the reaction mixture is taken as a test sample and one drop of 0.01 N-iodine test solution (Japanese Pharmacopoeia XII) is added. After confirming that the consumption of iodine has ceased, 6.6 g of copper acetate (monohydrate) is added to the reaction mixture and dissolved and any precipitate is filtered off. The filtrate is concentrated to about 70 ml and diluted with ethanol and the precipitated blue copper salt is recovered by filtration and recrystallized from water-ethanol. This copper salt is dissolved in 200 ml of water and hydrogen sulfide is then bubbled through the solution to precipitate the copper sulfide which is then filtered off. The filtrate is concentrated under reduced pressure and diluted with ethanol and the resulting white crystals are collected by filtration, washed with ethanol and recrystallized from water-ethanol. Thus is obtained about 9 g of the title compound as white amorphous crystals (hygroscopic).

reactant | glutathione | 9.2 g | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | maleic acid | 5.0 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
reactant | iodine | II | I2
solvent | water | 150 ml | O | H2O
product | S-(α,β-Dicarboxyethyl)glutathione | about 9 g | C(=O)(O)C(CC(=O)O)SC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O | C14H21N3O10S
